US04012380
Benzhydryl 7-(2-thienylacetamido)-3-(2-iodoethoxycarbonyl)-2-cephem-4-carboxylate
Benzhydryl 7-(2-thienylacetamido)-3-(2-bromoethoxycarbonyl)-2-cephem-4-carboxylate (7.61 g., 12 mmol.) was combined with sodium iodide (6.75 g., 45 meq.) in 100 ml. acetone. The reaction mixture was degassed and then heated to 35° with stirring for 16 hours. The reaction mixture was filtered and evaporated to dryness. The residue was dissolved in ethyl acetate and washed with water (3X) and brine and dried (Na2SO4). Evaporation in vacuo to dryness provided 7.78 g. (95.5%) of benzhydryl 7-(2-thienylacetamido-3-(2-iodoethoxycarbonyl)-2-cephem-4-carboxylate: ir (CHCl3) 1785 cm-1 (β-lactam C = O); nmr (CDCl2) δ 2.96 (t, 2, J = 7.0 Hz, --OCH2 --), 3.80 (s, 2, side chain CH2), 4.24 (t, 2, J = 7.0 Hz, --OCH2 --), 4.95 (d, 1, J = 4.0 Hz, C6 --H), 5.24 (q, 1, J = 4.0 Hz, C7 --H, rest of the signal covered by C4 --H), 5.50 (s, 1, C4 --H), and 7.80 (s, 1, C2 --H).

reactant | Benzhydryl 7-(2-thienylacetamido)-3-(2-bromoethoxycarbonyl)-2-cephem-4-carboxylate | 12 mmol, 7.61 g | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(C(=CS2)C(=O)OCCBr)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H25BrN2O6S2
reactant | sodium iodide | 6.75 g, 45 meq. | [I-].[Na+]
reactant | acetone | CC(=O)C | C3H6O
reactant | 2-thienylacetamido-3-(2-iodoethoxycarbonyl)-2-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC=1S[C@H]2N(C(C1C(=O)OCCI)C(=O)[O-])C(C2)=O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | Benzhydryl 7-(2-thienylacetamido)-3-(2-iodoethoxycarbonyl)-2-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(C(=CS2)C(=O)OCCI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H25IN2O6S2
